Analytic isolated RC cascade: analytic_two_poles
VIN input 0 dc 0 ac 1
E0 drive0 0 input 0 1000
R0 drive0 stage0 1000
C0 stage0 0 1.591549430918953e-07
E1 drive1 0 stage0 0 1
R1 drive1 out 1000
C1 out 0 1.591549430918953e-11
.control
set numdgt=15
set wr_vecnames
ac dec 100 1 10G
wrdata response.tsv v(out)

let check_magnitude = mag(v(out))
let check_gain_db = db(v(out))
let check_margin = 180 + cph(v(out))*57.29577951308232
meas ac check_gain_db_result find check_gain_db at=1
meas ac check_unity_hz_result when check_magnitude=1 fall=1
meas ac check_margin_deg_result find check_margin when check_magnitude=1 fall=1
quit
.endc
.end
